US07417144B2
A suspension of 2,3-dihydro-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (1 g) and lithium hydroxide (0.25 g) in 6 ml THF, 3 ml MeOH and 3 ml water was stirred 0.5 h at rt. The reaction mixture was poured onto 1M HCl/ice and washed three times with dichloromethane. The aqueous layer was neutralized with 1M NaOH, evaporated to dryness and purified by chromatography (silica gel, dichloromethane/methanol, 4/1) to yield 2,3-dihydro-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester as a white solid (400 mg). MS: 263.4 (M−H)−

reactant | 2,3-dihydro-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 1 g | CCOC(=O)C1CC=2C(=NC=CC2)N1C(=O)OC(C)(C)C | C15H20N2O4
reactant | lithium hydroxide | 0.25 g | [OH-].[Li+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 2,3-dihydro-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester | 400 mg | C(C)(C)(C)OC(=O)N1C(CC=2C1=NC=CC2)C(=O)O | C13H16N2O4
